** sch_path: /foss/designs/modulo1/lab02/xschem/nmos_char.sch
**.subckt nmos_char
XM1 net3 net1 GND GND sky130_fd_pr__nfet_01v8 L=L_val W=W_val nf=1 ad='int((1 + 1)/2) * W_val / 1 * 0.29' as='int((1 + 2)/2) * W_val / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_val / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_val / 1 + 0.29)' nrd='0.29 / W_val ' nrs='0.29 / W_val ' sa=0
+ sb=0 sd=0 mult=1 m=1
VGS1 net1 GND 0
VDS1 net2 GND 1.8
XM2 net6 net4 GND GND sky130_fd_pr__nfet_01v8 L=L_val W=W_val nf=1 ad='int((1 + 1)/2) * W_val / 1 * 0.29' as='int((1 + 2)/2) * W_val / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_val / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_val / 1 + 0.29)' nrd='0.29 / W_val ' nrs='0.29 / W_val ' sa=0
+ sb=0 sd=0 mult=1 m=1
VGS2 net4 GND 0
VDS2 net5 GND 1.8
Vmeas2 net5 net6 0
.save i(vmeas2)
Vmeas1 net2 net3 0
.save i(vmeas1)
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


.options savecurrents
.param W_val=10 L_val=0.15
.save all

.control
  * curva Id-VGS su MN1
  dc VGS1 0 1.8 0.005
  remzerovec
  plot i(vmeas1)
  write nmos_vgs.raw

  * famiglia Id-VDS su MN2
  dc VDS2 0 1.8 0.005 VGS2 0 1.8 0.2
  remzerovec
  plot all.vmeas2#branch
  write nmos_vds.raw

.endc

**** end user architecture code
**.ends
.GLOBAL GND
.end
